US08614206B2
To a solution of 5-azido-1-(1-cyclopropyl-4-nitro-1H-pyrazol-5-yl)azepan-3-ol (1.54 g, 5.0 mmol) in DCM (50 mL) was added by portions Dess-Martin periodinane (2.54 g, 6.0 mmol). After stirring at room temperature for 3 hr, the mixture was diluted with DCM (25 mL) and quenched with saturated aqueous NaHCO3 (50 mL) followed by saturated aqueous sodium thiosulfate (50 mL). The resulting mixture was stirred for 20 min. The organic layer was separated and the aqueous extracted with more EtOAc (3×30 mL). The combined organic layers were passed through a phase separation cartridge and the solvents removed under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 5-azido-1-(1-cyclopropyl-4-nitro-1H-pyrazol-5-yl)azepan-3-one (1.22 g) as a pale yellow solid. To a solution of this solid (1.22 g, 4.0 mmol) in DCM (60 mL) was added deoxo-Fluor® (50% in THF, 2.68 mL, 7.3 mmol) and the mixture was stirred at room temperature for 62 hr. The mixture was diluted with DCM (30 mL), cooled in an ice/water bath and quenched by dropwise addition of saturated aqueous NaHCO3 (100 mL). The resulting mixture was stirred for 10 min. The organic layer was separated, passed through a phase separation cartridge and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 5-azido-1-(1-cyclopropyl-4-nitro-1H-pyrazol-5-yl)-3,3-difluoroazepane (860 mg) as a viscous yellow oil. To a solution of this oil (0.85 g, 2.6 mmol) in THF (20 mL) and water (4 mL) was added triphenylphosphine (682 mg, 2.6 mmol) and the mixture was heated at 60° C. behind a blast screen for 16 hr. The mixture was diluted with EtOAc (30 mL) and washed with water (3×20 mL). The organic layer was separated, passed through a phase separation cartridge and the solvents removed under reduced pressure. The residue was passed through an SCX column washing with DCM and 1:1 MeOH:DCM and MeOH and eluting with 1 N ammonia in MeOH to afford 1-(1-cyclopropyl-4-nitro-1H-pyrazol-5-yl)-6,6-difluoroazepan-4-amine (783 mg) contaminated with triphenylphosphine oxide) as a viscous dark yellow oil. To a solution of this oil (0.78 g, 2.60 mmol) and DIPEA (1.36 mL, 7.80 mmol) in DCM (20 mL) was added trifluoroacetic anhydride (0.4 mL, 2.86 mmol) and the mixture stirred at room temperature for 16 hr. The organic layer was washed with water (2×20 mL), separated and passed through a phase separation cartridge. The solvent was removed under reduced pressure and the residue purified via silica gel column chromatography (0-100% EtOAc/isohexane) to give N-(1-(1-cyclopropyl-4-nitro-1H-pyrazol-5-yl)-6,6-difluoroazepan-4-yl)-2,2,2-trifluoroacetamide as a yellow solid (880 mg, 44% over 4 steps). 1H NMR (400 MHz, CDCl3) δ 7.99-7.95 (m, 1H), 6.55 (d, J=8.0 Hz, 1H), 4.59-4.50 (m, 1H), 3.74-3.62 (m, 3H), 3.44-3.34 (m, 2H), 2.55-2.44 (m, 2H), 2.31-2.14 (m, 2H), 1.39-1.07 (m, 4H).

reactant | 5-azido-1-(1-cyclopropyl-4-nitro-1H-pyrazol-5-yl)azepan-3-ol | 5.0 mmol, 1.54 g | N(=[N+]=[N-])C1CC(CN(CC1)C1=C(C=NN1C1CC1)[N+](=O)[O-])O | C12H17N7O3
reactant | Dess-Martin periodinane | 6.0 mmol, 2.54 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 5-azido-1-(1-cyclopropyl-4-nitro-1H-pyrazol-5-yl)azepan-3-one | 1.22 g | N(=[N+]=[N-])C1CC(CN(CC1)C1=C(C=NN1C1CC1)[N+](=O)[O-])=O | C12H15N7O3
